US04942264
Stage 3: Preparation of E-3-(4-fluoro-3-phenoxyphenyl)prop-2-en-1-yl triphenyl phosphonium chloride.
A mixture of E-3-(4-fluoro-3-phenoxyphenyl)-1-chloroprop-2-ene (42 g), triphenylphosphine (42 g) and xylene (300 cm3) was heated at the reflux temperature for 16 hours. After cooling, crystals of E-3-(4-fluoro-3-phenoxyphenyl)prop-2-en-1-yl triphenyl phosphonium chloride (68 g) were filtered from the reaction mixture, washed with dry diethyl ether, dried by suction and stored in a desiccator under vacuum.

reactant | E-3-(4-fluoro-3-phenoxyphenyl)-1-chloroprop-2-ene | 42 g | FC1=C(C=C(C=C1)/C=C/CCl)OC1=CC=CC=C1 | C15H12ClFO
reactant | triphenylphosphine | 42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | xylene | 300 cm3 | C=1(C(=CC=CC1)C)C | C8H10
product | E-3-(4-fluoro-3-phenoxyphenyl)prop-2-en-1-yl triphenyl phosphonium chloride | [Cl-].FC1=C(C=C(C=C1)/C=C/C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OC1=CC=CC=C1 | InChI=1S/C33H27FOP.ClH/c34-32-24-23-27(26-33(32)35-28-15-5-1-6-16-28)14-13-25-36(29-17-7-2-8-18-29,30-19-9-3-10-20-30)31-21-11-4-12-22-31;/h1-24,26H,25H2;1H/q+1;/p-1/b14-13+;
